US05332715
Methyl 5-trimethylsilyl-2-isoxazoline-3-carboxylate (Table 1, Example No. 2)
3 g of vinyltrimethylsilane and 4.13 g of chloroximinomethyl acetate are introduced into 150 ml of ether, and 4.1 g of triethylamine in 150 ml of ether are then slowly added dropwise. Water is subsequently added, and the mixture is extracted several times using ether. The ether phase is dried using magnesium sulfate, concentrated on a Rotavapor and separated over a silica gel column (solvent n-heptane:ethyl acetate 9:1)

reactant | vinyltrimethylsilane | 3 g | C(=C)[Si](C)(C)C | C5H12Si
reactant | chloroximinomethyl acetate | 4.13 g | C(C)(=O)OC(=NO)Cl | C3H4ClNO3
reactant | triethylamine | 4.1 g | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | ether | 150 ml | CCOCC | C4H10O
product | Methyl 5-trimethylsilyl-2-isoxazoline-3-carboxylate | C[Si](C1CC(=NO1)C(=O)OC)(C)C | C8H15NO3Si
